US06610701B2
2,2-Difluoro-2-(2-pyridyl)ethyl trifluoromethanesulfonate (I-1-4)
To a stirred solution of 5 g (31.4 mmol) of 2,2-difluoro-2-(2-pyridyl)ethanol I-1-3 and 9.69 g (47.2 mmol) of 2,6-di-t-butyl-4-methylpyridine in 110 mL of methylene chloride at −78° C. under Ar was added 7.93 mL (47.2 mmol) of triflic anhydride dropwise. After 1 h, the reaction was diluted with 100 mL of pentane and filtered. The filtrate was concentrated and treated again with pentane and filtered. Concentration of the filtrate gave I-1-4 as a brown oil, contaminated with 2,6-di-t-butyl-4-methylpyridine: 1H NMR (CDCl3) δ5.12 (t, 2H), 7.45-7.5 (m, 1H), 7.75 (d, 1H), 7.86-7.94 (m, 1H), 8.65 (d, 1H).

reactant | 2,2-difluoro-2-(2-pyridyl)ethanol | 31.4 mmol, 5 g | FC(CO)(C1=NC=CC=C1)F | C7H7F2NO
reactant | 2,6-di-t-butyl-4-methylpyridine | 47.2 mmol, 9.69 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | triflic anhydride | 47.2 mmol, 7.93 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 110 mL | C(Cl)Cl | CH2Cl2
solvent | pentane | 100 mL | CCCCC | C5H12
product | 2,2-Difluoro-2-(2-pyridyl)ethyl trifluoromethanesulfonate | FC(S(=O)(=O)OCC(C1=NC=CC=C1)(F)F)(F)F | C8H6F5NO3S
